US09034866B2
Methyl 9-bromo-8-fluoro-4,5-dihydrobenzo[b]thieno[2,3-d]oxepine-2-carboxylate was subjected to General Procedure L to afford 484 mg 9-bromo-8-fluoro-4,5-dihydrobenzo[b]thieno[2,3-d]oxepine-2-carboxamide in quantitative yield. 9-bromo-8-fluoro-4,5-dihydrobenzo[b]thieno[2,3-d]oxepine-2-carboxamide (0.1 g) was reacted with (2R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol similarly to as described in General Procedure F with non-critical modifications to afford 50 mg (41%) of 8-fluoro-9-[(3R)-3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-ynyl]-4,5-dihydrothieno[3,2-d][1]benz oxepine-2-carboxamide. M+1=413; 1H NMR (400 MHz, DMSO-d6) δ 7.95 (s, 1H), 7.70 (d, J=7.8 Hz, 1H), 7.59 (s, 1H), 7.43 (s, 1H), 7.03 (d, J=10.4 Hz, 1H), 6.55 (s, 1H), 6.35 (d, J=1.0 Hz, 1H), 4.34 (t, J=5.6, 4.5 Hz, 2H), 3.18 (t, J=5.1 Hz, 2H), 2.41 (d, J=1.0 Hz, 3H), 1.80 (s, 3H).

reactant | 9-bromo-8-fluoro-4,5-dihydrobenzo[b]thieno[2,3-d]oxepine-2-carboxamide | 0.1 g | BrC1=CC2=C(OCCC3=C2SC(=C3)C(=O)N)C=C1F | C13H9BrFNO2S
reactant | (2R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol | CC1=CC(=NO1)[C@@](C)(C#C)O | C8H9NO2
product | 8-fluoro-9-[(3R)-3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-ynyl]-4,5-dihydrothieno[3,2-d][1]benz oxepine-2-carboxamide | 50 mg, 41% | FC1=CC2=C(C3=C(CCO2)C=C(S3)C(=O)N)C=C1C#C[C@](C)(C1=NOC(=C1)C)O | C21H17FN2O4S
